US07250410B2
8-methoxy-1-methyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIdm.
By replacing 7,8-dimethoxy-5-phenyl-1,3-dihydro-1,4-benzodiazepin-2-one (XXIIaa) in the example by 7-methoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIan), and ethylene carbonate by iodomethane, and proceeding in the same manner, the abovenamed product is obtained. Yield: 76%. M: 114–116° C. 1H-NMR (CDCl3, 300 MHz): d 3.41 (s, 3H, NCH3), 3.90 (s, 3H, OCH3), 4.29 (AB system, ? d=0.99, JAB=10.6, 2H, —CH2), 6.71–6.75 (m, 1H Ar), 6.81–6.82 (m, 1H Ar), 7.22–7.25 (m, 1H Ar), 7.36–7.42 (m, 3H Ar), 7.50–7.62 (m, 2H Ar).

reactant | 7-methoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | COC=1C=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1 | C16H14N2O2
reactant | ethylene carbonate | C1(OCCO1)=O | C3H4O3
reactant | iodomethane | IC | CH3I
product | 8-methoxy-1-methyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 76% | COC1=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C=C1 | C17H16N2O2
